US08895733B2
Intermediate 208: 6-(3,3,3-Trifluoropropyl)pyridine-3-carbonitrile
To a solution of 6-methyl-nicotinonitrile (118 mg, 1.0 mmol) in anhydrous THF (20 mL) at −78 C under nitrogen was added lithium diisopropylamine (2M solution in THF/heptane/ethylbenzene, 550 μL, 1.1 mmol) drop-wise. The resulting solution was allowed to warm to room temperature for 5 min and then cooled back to −78 C. 1,1,1-Trifluoro-2-iodo-ethane (524 mg, 2.5 mmol) was then added to the solution drop-wise and the reaction mixture was allowed to warm to room temperature and stirred at this temperature for 2 h. The reaction mixture was cooled at 0 C and quenched with water; the resulting solution was extracted with EtOAc (3×25 mL). Combined organics were washed with brine (25 mL), dried over magnesium sulfate and purified by silica chromatography (25% EtOAc in heptane) to afford the title compound as a pale yellow oil (191 mg, 95%). Method C HPLC-MS: MH+ requires m/z=201. Found: m/z=201, Rt=1.22 min (86%).

reactant | 6-methyl-nicotinonitrile | 1.0 mmol, 118 mg | CC1=NC=C(C#N)C=C1 | C7H6N2
reactant | lithium diisopropylamine | 1.1 mmol, 2M, 550 μL | C(C)(C)NC(C)C.[Li]
reactant | 1,1,1-Trifluoro-2-iodo-ethane | 2.5 mmol, 524 mg | FC(CI)(F)F | C2H2F3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(3,3,3-Trifluoropropyl)pyridine-3-carbonitrile | 191 mg, 95% | FC(CCC1=CC=C(C=N1)C#N)(F)F | C9H7F3N2
